* EML Stage-B: NPN temperature sweep -20..85C
* Gummel sweep at each temp -> dVBE/dT at fixed IC, slope(T)
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XQ1 c b 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00
VC  c 0 1.5
VB  b 0 0.0

.control
set filetype=ascii
foreach t -20 0 25 55 85
  option temp = $t
  dc VB 0.3 0.95 0.002
  wrdata npn_temp_{$t}.csv i(VC)
  destroy all
end
echo TEMP_DONE
.endc
.end
